US06011028
4-phenyl-2-buten-1-ol
To a -10° C. solution of phenylmagnesium bromide, 3M in ether (68 mL) was added a solution of cupric acetate (5.6 g) and butadiene monoxide (6.43 mL) in THF (200 mL) over 40 min while maintaining the reaction temperature below -5° C. The reaction was stirred at -10° C. for 1 h, room temperature for 16 h, refluxed for 15 min then cooled to room temperature. Aqueous HCl (10%, 100 mL) was added and the mixture extracted with ethyl acetate. The organic solution was washed with aqueous HCl (10%), NaHCO3 (saturated) and brine (saturated), dried (MgSO4) and concentrated to yield a blue liquid. The residue was chromatographed to yield the title compound (6.3 g, 30%).

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | butadiene monoxide | 6.43 mL | C1C(C=C)O1 | C4H6O
reactant | HCl | 100 mL | Cl | ClH
solvent | ether | 68 mL | CCOCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-phenyl-2-buten-1-ol | 6.3 g, 30% | C1(=CC=CC=C1)CC=CCO | C10H12O
